US04906774
IPDI+JEFFAMINE® D-400 (1:2)
A mixture of JEFFAMINE® D-400 (160 g, 0.40m) and i-PrOH (120) was charged into a flask. Isophorone diisocyanate (44.4 g, 0.20) was added dropwise at 20°-25° C. over a 1 hour period of time. The solvent in the product solution was removed by using a high vacuum. The resulting product was a colorless semisolid at room temperature. The analysis of amine indicated 1.59 meq/g.

reactant | JEFFAMINE | CC(COCC(C)OCC(C)OCC(C)N)N | C12H28N2O3
reactant | Isophorone diisocyanate | 44.4 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | IPDI JEFFAMINE | CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C.CC(COCC(C)OCC(C)OCC(C)N)N | InChI=1S/C12H28N2O3.C12H18N2O2/c1-9(13)5-15-7-11(3)17-8-12(4)16-6-10(2)14;1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15/h9-12H,5-8,13-14H2,1-4H3;10H,4-7H2,1-3H3
